US07396843B2
HATU (65 mg, 0.17 mmol) was added to a solution of {3′-[(cyclopropylcarbonyl)amino]-6′-methyl-biphen-4-yl}carboxylic acid (50 mg, 0.17 mmol) in DMF (1 ml). After 5 minutes HOBT (23 mg, 0.17 mmol), 2-aminomethyl-5-(dimethylaminomethyl)furan oxalic acid salt (68 mg, 0.204 mmol) and DIPEA (0.087 ml, 0.51 mmol) were added and the reaction mixture stirred at room temperature under nitrogen for 18 hours. The DMF was removed in vacuo and the residue partitioned between DCM (10 ml) and aqueous sodium carbonate (1 M, 10 ml). The organic phase wwas reduced to dryness under vacuum and purified by SPE cartridge (Si, 10 g) eluting in turn with DCM, ether, ethyl acetate, acetonitrile, acetone and ethanol to give the N3-cyclopropyl-N4′-({5-[(dimethylamino)methyl]-2-furyl}methyl)-6-methyl-1,1′-biphenyl-3,4′-dicarboxamide (35 mg, 0.081 mmol).

reactant | HATU | 0.17 mmol, 65 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | {3′-[(cyclopropylcarbonyl)amino]-6′-methyl-biphen-4-yl}carboxylic acid | 0.17 mmol, 50 mg | C1(CC1)C(=O)NC=1C=C(C2=CC=C(C=C2)C(=O)O)C(=CC1)C | C18H17NO3
reactant | HOBT | 0.17 mmol, 23 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-aminomethyl-5-(dimethylaminomethyl)furan oxalic acid salt | 0.204 mmol, 68 mg | C(C(=O)O)(=O)O.NCC=1OC(=CC1)CN(C)C
reactant | DIPEA | 0.51 mmol, 0.087 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N3-cyclopropyl-N4′-({5-[(dimethylamino)methyl]-2-furyl}methyl)-6-methyl-1,1′-biphenyl-3,4′-dicarboxamide | 0.081 mmol, 35 mg | C1(CC1)NC(=O)C=1C=C(C(=CC1)C)C1=CC=C(C=C1)C(=O)NCC=1OC(=CC1)CN(C)C | C26H29N3O3
